US05504078
To a solution of methyl 2,3,4-tri-O-benzyl-6-deoxy-7-O-methylsulfonyl-α-D-glucoheptopyranoside (0.38 g, 0.83 mmol) in ether (5 ml) was added at 0° C. a 0.375 M solution of magnesium iodide (6.7 ml). The mixture was stirred 15 min at 0° C. The excess of magnesium iodide was hydrolyzed with water. The reaction mixture was washed with sodium thiosulfate and Water. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to afford an oil. Flash chromatography on silica gel and elution with a 2:8 mixture of ethyl acetate and hexane afforded the expected iodide methyl 2,3,4-tri-O-benzyl-6,7-dideoxy-7-iodo-α-D-glucoheptopyranoside which was crystallized from hexane (0.368 g, 91%); m.p. 66°-68° C.

reactant | methyl 2,3,4-tri-O-benzyl-6-deoxy-7-O-methylsulfonyl-α-D-glucoheptopyranoside | 0.83 mmol, 0.38 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)CCOS(=O)(=O)C | C30H36O8S
reactant | magnesium iodide | 6.7 ml | [I-].[Mg+2].[I-]
reactant | water | O | H2O
solvent | ether | 5 ml | CCOCC | C4H10O
product | iodide methyl 2,3,4-tri-O-benzyl-6,7-dideoxy-7-iodo-α-D-glucoheptopyranoside | C(C1=CC=CC=C1)O[C@H]1[C@@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)CCI.[I-] | InChI=1S/C29H33IO5.HI/c1-31-29-28(34-21-24-15-9-4-10-16-24)27(33-20-23-13-7-3-8-14-23)26(25(35-29)17-18-30)32-19-22-11-5-2-6-12-22;/h2-16,25-29H,17-21H2,1H3;1H/p-1/t25-,26-,27+,28-,29+;/m1./s1
